US04204071
To a refluxing mixture of phosphorus pentachloride (5.8 g) and carbon tetrachloride (25 ml) is slowly added m-phenoxybenzyl 3-benzoylpropionate (5 g) in carbon tetrachloride (10 ml) over about 45 minutes. Refluxing is continued about 0.5 hr and then the reaction is poured onto ice and extracted with ether. The ether extracts are combined, washed with saturated sodium bicarbonate, water and saturated sodium chloride, dried over calcium sulfate and solvent evaporated. The product is subjected to prep. TLC using 12% ethyl acetate/hexane and the major band collected to yield m-phenoxybenzyl 4-chloro-4-phenyl-3-butenoate.

reactant | phosphorus pentachloride | 5.8 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | m-phenoxybenzyl 3-benzoylpropionate | 5 g | C(C1=CC=CC=C1)(=O)CCC(=O)OCC1=CC(=CC=C1)OC1=CC=CC=C1 | C23H20O4
solvent | carbon tetrachloride | 10 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 25 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | m-phenoxybenzyl 4-chloro-4-phenyl-3-butenoate | ClC(=CCC(=O)OCC1=CC(=CC=C1)OC1=CC=CC=C1)C1=CC=CC=C1 | C23H19ClO3
